US07737145B2
A solution of 1-Boc-2-aminomethylpiperidine (429 mg, 2 mmol) and methyl 4-formylbenzoate (329 mg, 2 mmol) in dichloroethane (10 mL) was stirred as acetic acid (180 mg, 3 mmol) and sodium triacetoxyborohydride (487 mg, 2.3 mmol) were added sequentially. The reaction was stirred at ambient temperature for 17 hours. The reaction was poured into water and extracted with methylene chloride (2×). The organic phase was dried over sodium sulfate, filtered, and concentrated. Purification on silica gel using a gradient of ethyl acetate in hexane gave 0.7 g of 1,1-dimethylethyl 2-((4-(methoxycarbonyl)phenylmethylamino)methyl)-1-piperidinecarboxylate.

reactant | 1-Boc-2-aminomethylpiperidine | 2 mmol, 429 mg | C(=O)(OC(C)(C)C)N1C(CCCC1)CN | C11H22N2O2
reactant | methyl 4-formylbenzoate | 2 mmol, 329 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | acetic acid | 3 mmol, 180 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.3 mmol, 487 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 1,1-dimethylethyl 2-((4-(methoxycarbonyl)phenylmethylamino)methyl)-1-piperidinecarboxylate | 0.7 g | COC(=O)C1=CC=C(C=C1)CNCC1N(CCCC1)C(=O)OC(C)(C)C | C20H30N2O4
